US05728710
7-Demethoxy-7-Oxorapamycin
To a solution of rapamycin (5 mg, 0.055 mmol) in dichloromethane (0.1 mL) was added water (0.02 mL) followed by DDQ (2.4 mg, 0.011 mmol), and the resulting dark brown suspension was stirred at room temperature for 45 min. The mixture was filtered through celite and then partitioned between dichloromethane and brine; the organic extracts were dried over anhydrous magnesium sulfate and the resulting crude material was purified by prep TLC. The desired product was isolated as a colorless oil (1.2 mg). 1 H NMR (CDCl3, 400 MHz, 3:1 mixture of trans:cis amide rotamers; data for the trans-rotamer): -- 7.145 (d, J=10.4 Hz, 1H), 6.635 (dd, J=14.9, 10.6 Hz, 1H), 6.57-6.48 (m, 2H), 6.224 (dd, J=15.1, 10.6 Hz, 1H), 5.662 (dd, J=15.1, 8.6 Hz, 1H), 5.447 (d, J=11.2 Hz, 1H), 4.305 (br d, J=5.4 Hz, 1H), 3.983 (d, J=5.4 Hz, 1H), 3.385 (s, 3H), 3.346 (s, 3H),; MS (ESl+/NH4OAc) m/z 920 (M+Na+), 915 (M+NH4+), 898, 880; UV (MeOH) max 318 nm.

reactant | rapamycin | 0.055 mmol, 5 mg | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)O)C)/C)O)OC)C)C)/C)OC | C51H79NO13
reactant | water | 0.02 mL | O | H2O
reactant | DDQ | 0.011 mmol, 2.4 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | dichloromethane | 0.1 mL | ClCCl | CH2Cl2
product | 7-Demethoxy-7-Oxorapamycin | C[C@@H]1CC[C@H]2CC(=O)C(=CC=C/C=C\[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)O)C)/C)O)OC)C)C)C | C50H75NO13
